US06624160B2
N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-cinnolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-cinnolinecarboxamide (Prep. 6, 0.12 g), K2CO3 (0.21 g) and iodomethane (26 μL) in 5 mL anhydrous DMF is heated at 90° C. for 1.5 h. The reaction is cooled to room temperature and poured into 50 mL water. The resulting solid is filtered and dried, then dissolved in CH2Cl2/MeOH and adsorbed onto silica. Purification by chromatography (eluent CH2Cl2 (1L), 0.5% MeOH/CH2Cl2 (2L), 1% MeOH/CH2Cl2 (1L), 1.5% MeOH/CH2Cl2 (1L), 2% MeOH/CH2Cl2 (1L), 2.5% MeOH/CH2Cl2 (3L), 3% MeOH/CH2Cl2 (1L), 4% MeOH/CH2Cl2 (1L), 6% MeOH/CH2Cl2 (1L), 8% MeOH/CH2Cl2 (1L)) affords the desired product as a white solid (0.044 g, 36%). Physical characteristics are as follows: m.p. 203-205° C.; 1H NMR (300 MHz, DMSO-d6) δ10.11, 8.23, 7.95, 7.92, 7.40, 5.54, 4.68, 4.56, 4.26; IR (drift) 3380, 1653, 1600, 1551, 1482, 1406, 1351, 1107, 1090, 1015, 813, 801, 727, 709, 659 cm−1; MS (FAB) m/z 358 (MH+), 511, 361, 360, 359, 358, 217, 127, 125, 123, 39; HRMS (FAB) calcd for C18H16ClN3O3+H1 358.0958, found 358.0961.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-cinnolinecarboxamide | 0.12 g | ClC1=CC=C(CNC(=O)C=2N=NC3=CC=C(C=C3C2O)CO)C=C1 | C17H14ClN3O3
reactant | K2CO3 | 0.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 26 μL | IC | CH3I
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-cinnolinecarboxamide | 0.044 g, 36% | ClC1=CC=C(CNC(=O)C2=NN(C3=CC=C(C=C3C2=O)CO)C)C=C1 | C18H16ClN3O3
